US07511038B2
5-Acetyl-4-[(3-chlorophenyl)amino]-2-ethyl-6-phenylpyridazin-3(2H)-one
To a stirred solution of 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one (100 mg, 0.34 mmol) (Dal Piaz, V et al., J. Med. Chem. 1997, 40, 1417) in ethanol (2 mL), 3-chloroaniline (132 mg, 1.04 mmol) was added portionwise. The resulting mixture was stirred at room temperature for 30 min and the final product was collected by filtration and washed with ethanol and diethylether to yield the title compound (65% yield).

reactant | 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one | 0.34 mmol, 100 mg | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)[N+](=O)[O-] | C14H13N3O4
reactant | 3-chloroaniline | 1.04 mmol, 132 mg | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 5-Acetyl-4-[(3-chlorophenyl)amino]-2-ethyl-6-phenylpyridazin-3(2H)-one | 65% yield | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)NC1=CC(=CC=C1)Cl | C20H18ClN3O2
